US05612377
Trifluoroacetic acid (21 mL, 270 mmol) was added in a single portion to a solution of tert-butyl N-benzyloxy-N-(2-methylpropyl)carbamate (7.6 g, 27 mmol) in methylene chloride (21 mL). A spontaneous reflux occurred. The reaction mixture was stirred without external heating for 20 minutes and then concentrated under vacuum at 45° C. Saturated aqueous sodium bicarbonate was added to the residue followed by a quantity of solid sodium bicarbonate sufficient to bring the pH of the reaction mixture up to a value of 9. The mixture was extracted twice with methylene chloride. The extracts were combined, dried over magnesium sulfate then concentrated under vacuum to provide 4.9 g of N-benzyloxy-N-(2-methylpropyl)amine as an oil.

reactant | Trifluoroacetic acid | 270 mmol, 21 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl N-benzyloxy-N-(2-methylpropyl)carbamate | 27 mmol, 7.6 g | C(C1=CC=CC=C1)ON(C(OC(C)(C)C)=O)CC(C)C | C16H25NO3
solvent | methylene chloride | 21 mL | C(Cl)Cl | CH2Cl2
product | N-benzyloxy-N-(2-methylpropyl)amine | 4.9 g | C(C1=CC=CC=C1)ONCC(C)C | C11H17NO
